US04652651
A solution of 50.4 g (0.2 mol) of ethyl 2-methoxyimino-4-bromoacetoacetate [M. Ochiai et al., Chem. Pharm. Bull. 25, 3115 (1977)] and 60.1 g (1 mol) of urea in 200 ml of dimethylformamide is heated to 100° C. for 30 minutes. Thereafter, the mixture is evaporated, the residue is taken up in 800 ml of water, neutralized with sodium bicarbonate and extracted with ethyl acetate. The ethyl acetate extract is chromatographed on silica gel with acetonitrile/methylene chloride (1:1). There is obtained ethyl 2-(2-amino-4-oxazolyl)-2-methoxyimino-acetate in a yield of 26%; melting point 120° C. (decomposition).

reactant | ethyl 2-methoxyimino-4-bromoacetoacetate | 0.2 mol, 50.4 g | CON=C(C(=O)OCC)C(=O)CBr | C7H10BrNO4
reactant | urea | 1 mol, 60.1 g | NC(=O)N | CH4N2O
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | ethyl 2-(2-amino-4-oxazolyl)-2-methoxyimino-acetate | yield of 26% | NC=1OC=C(N1)C(C(=O)OCC)=NOC | C8H11N3O4
